US06812236B2
1-Hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine
To a stirred solution of 1-hexanoyl-3,4-dimethyl-4-(3-hydroxyphenyl)-piperidine (Preparation 5, 3.1 g, 10.1 mmol) in dichloromethane (30 mL) at room temperature was added triethylamine (2.82 mL, 20.2 mmol) followed by N-phenyltrifluoromethanesulfonimide (3.6 g, 15.1 mmol) portionwise. The reaction was stirred under a nitrogen atmosphere at room temperature for 16 hours and then aqueous sodium hydroxide (30 mL of 2 N) was added. The bi-phasic mixture was stirred vigorously for 2 hours before the two layers were separated and the aqueous layer extracted with dichloromethane (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with a gradient of ethyl acetate:hexane (1:2 and then 2:1). The title compound was obtained as a clear oil (3.6 g).

reactant | 1-hexanoyl-3,4-dimethyl-4-(3-hydroxyphenyl)-piperidine | 10.1 mmol, 3.1 g | C(CCCCC)(=O)N1CC(C(CC1)(C1=CC(=CC=C1)O)C)C | C19H29NO2
reactant | triethylamine | 20.2 mmol, 2.82 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 15.1 mmol, 3.6 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydroxide | 2 N, 30 mL | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-Hexanoyl-3,4-dimethyl-4-(trifluoromethanesulfonyloxyphenyl)piperidine | C(CCCCC)(=O)N1CC(C(CC1)(C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)C)C | C20H28F3NO4S
